US09284284B2
c) [3-(5-Amino-3-methyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-(6-bromo-1-methyl-1H-indazol-3-yl)-amine
To a suspension of 5-[3-(6-bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholine-3-thione (21 mg, 0.049 mmol) in MeOH (1.5 ml) were added NH4OH (0.303 ml of a 25% aq. soln., 273 mg, 1.947 mmol) and tBuOOH (0.101 ml of a 70% aq. soln., 94 mg, 0.730 mmol) and the reaction mixture was allowed to stir at rt for 20 h, quenched with sat. aq. NaHCO3 soln. and diluted with EtOAc. The layers were separated and the aq. layer was twice reextracted with EtOAc. The combined organic layers were dried over Na2SO4, filtered and concentrated to leave the crude title compound that was purified by RP-HPLC (Waters SunFire C18 column, 5 μM, 19×150 mm, gradient 10 to 90% ACN+0.1% TFA).

reactant | 5-[3-(6-bromo-1-methyl-1H-indazol-3-ylamino)-phenyl]-5-methyl-morpholine-3-thione | 0.049 mmol, 21 mg | BrC1=CC=C2C(=NN(C2=C1)C)NC=1C=C(C=CC1)C1(COCC(N1)=S)C | C19H19BrN4OS
reactant | NH4OH | [NH4+].[OH-]
reactant | tBuOOH | C(C)(C)(C)OO | C4H10O2
solvent | MeOH | 1.5 ml | CO | CH4O
product | [3-(5-Amino-3-methyl-3,6-dihydro-2H-[1,4]oxazin-3-yl)-phenyl]-(6-bromo-1-methyl-1H-indazol-3-yl)-amine | NC1=NC(COC1)(C)C=1C=C(C=CC1)NC1=NN(C2=CC(=CC=C12)Br)C | C19H20BrN5O
